US06900215B2
A suspension of 4-bromopyridine hydrochloride (6.81 g, 35 mmol) in tetrahydrofuran (100 ml) was treated with sodium hydroxide (8.75 ml of a 4N solution in water) and this mixture was stirred at ambient temperature for 5 min. 2,6-Difluorobenzeneboronic acid (6.36 g, 40 mmol) and potassium fluoride (6.71 g, 116 mmol) were added and this mixture was degassed with nitrogen for 10 min before adding tris(dibenzylideneacetone)dipalladium(0) (640 mg, 0.7 mmol) followed by tri-tert-butylphosphine (7 ml of a 0.2M solution in 1,4-dioxane, 1.4 mmol). This mixture was stirred at ambient temperature for 15 min then heated at 50° C. for 30 min. The reaction mixture was diluted with dichloromethane then extracted with ice-cold 1N sodium hydroxide solution (×2). The organics were dried over anhydrous magnesium sulphate, filtered and pre-adsorbed onto silica. Purification by chromatography on silica eluting with isohexane (containing 0.5% methanol and 0.5% triethylamine) on a gradient of ethyl acetate (20-30%) gave 4-(2,6-difluorophenyl)pyridine as a white solid (3.2 g, 48%): δH (400 MHz, CDCl3) 6.99-7.06 (2H, m), 7.32-7.39 (1H, m), 7.40-7.42 (2H, m), 8.71 (2H, d, J 6).

reactant | 4-bromopyridine hydrochloride | 35 mmol, 6.81 g | Cl.BrC1=CC=NC=C1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,6-Difluorobenzeneboronic acid | 40 mmol, 6.36 g | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | potassium fluoride | 116 mmol, 6.71 g | [F-].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.7 mmol, 640 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2,6-difluorophenyl)pyridine | 3.2 g, 48% | FC1=C(C(=CC=C1)F)C1=CC=NC=C1 | C11H7F2N
